Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin / morphine
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS
================
___ 02:17AM BLOOD WBC-8.5 RBC-3.45* Hgb-10.6* Hct-33.3* 
MCV-97 MCH-30.7 MCHC-31.8* RDW-14.0 RDWSD-49.3* Plt ___
___ 02:17AM BLOOD Neuts-63.9 ___ Monos-8.9 Eos-1.5 
Baso-0.4 Im ___ AbsNeut-5.46 AbsLymp-2.12 AbsMono-0.76 
AbsEos-0.13 AbsBaso-0.03
___ 02:17AM BLOOD Glucose-78 UreaN-14 Creat-0.4 Na-137 
K-4.5 Cl-97 HCO3-29 AnGap-11
___ 02:17AM BLOOD ALT-<5 AST-33 AlkPhos-58 TotBili-0.6
___ 02:17AM BLOOD Lipase-17
___ 02:17AM BLOOD cTropnT-0.01
___ 02:17AM BLOOD Albumin-4.1 Calcium-9.5 Phos-3.5 Mg-2.5
___ 09:13AM BLOOD ___ pO2-49* pCO2-50* pH-7.41 
calTCO2-33* Base XS-5
___ 09:13AM BLOOD Lactate-1.8

MICRO
=====
___ 4:12 am URINE

   URINE CULTURE (Preliminary): 
      GRAM NEGATIVE ROD(S).    >100,000 CFU/mL. 

___ 7:34 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

IMAGING
========
___ CXR
Evaluation is limited due to low lung volumes and patient 
positioning with chin overlying the lung apices. Within these 
limitations: 
Tracheostomy is again seen. No large pleural effusion or obvious 
pneumothorax. The cardiomediastinal silhouette is enlarged and 
stable. Aortic arch atherosclerotic calcifications are again 
seen.  Obscuration of the left hemidiaphragm may be secondary to 
atelectasis, a developing infiltrate cannot be excluded. 
The apparent opacity in the right lower lung base is not 
visualized on repeat images and is likely due to overlying soft 
tissue, possibly the patient's arm. Deformities of the bilateral 
ribs, may be related to old fractures. 

DISCHARGE LABS
==============
___ 04:35AM BLOOD WBC-6.3 RBC-2.94* Hgb-8.7* Hct-28.1* 
MCV-96 MCH-29.6 MCHC-31.0* RDW-14.0 RDWSD-49.0* Plt ___
___ 04:35AM BLOOD Glucose-93 UreaN-11 Creat-0.4 Na-137 
K-3.9 Cl-99 HCO3-26 AnGap-12
___ 04:35AM BLOOD ALT-<5 AST-25
___ 04:35AM BLOOD Calcium-8.7 Phos-2.9 Mg-2.___RIEF ICU COURSE
===================
___ year old woman with chronic respiratory failure s/p PEG/trach 
___ (nocturnally ventilated), chronic aspiration with PEG, 
dementia, advanced ___, HTN, HLD, and recent admission 
for a right fibula fracture, who presents with hypotension and 
diarrhea in the setting of C diff infection and UTI. Her 
hypotension was likely hypovolemic and rapidly improved with IV 
fluid resuscitation. She was treated with high-dose PO 
vancomycin and IV flagyl as well as IV ceftriaxone for her GNR 
UTI. Upon discharge, the patient was clinically improved with 
baseline blood pressures and decreased stool output.

TRANSITIONAL ISSUES: 
====================
[] Patient to complete PO vancomycin on ___ for total course 
of 14 days. Please ensure diarrhea has resolved following 
completion of this
[] Patient initiated on treatment for UTI and will be discharged 
with bactrim for 1 day for total 3 day course. Please ensure 
completion and resolution of UTI following this
[] Would recommend prophylactic PO vancomycin with future 
antibiotic courses to prevent recurrent C. diff

ACUTE ISSUES 
======================= 
# Diarrhea
# C difficile Infection
Patient presented with diarrhea over the past week unresponsive 
to PO vanc in the setting of known C diff infection. Although 
the number of daily stools has slowed down, the volume of the 
stools have been large. Given that she has had multiple c diff 
infections, she may be resistant to vancomycin. Stool cultures 
were sent. She was started on high dose PO vancomycin and IV 
flagyl. She was given IV fluids as below for GI losses. Her 
stool output decreased, her hypotension resolves, and she 
overall clinically was stable.

# Hypotension
Patient has blood pressures as low as ___ systolic in ED. BP was 
very responsive to fluid with no need for pressors. This was 
likely due to hypovolemia in the setting of fluid loss from 
diarrhea. Possibly, a compenent of SIRS response with C diff 
infection and UTI. No evidence of end organ damage based on 
initial labs. Blood pressures on discharge back to baseline.

# UTI
Patient with urine culture growing >100K GNR bacteria. The team 
was unable to assess symptoms given her mental status. 
Therefore, given concern for sepsis, she was treated with IV 
ceftriaxone.

# Chronic respiratory failure 
Patient has a tracheostomy and requires ventilator support at 
night. Patient has a history of frequent aspirations, with CXR 
appearing similar to baseline. She was continued on home 
ventilator settings. she was continued on home ipratropium, 
levalbuterol, and Perforomist. 

CHRONIC ISSUES 
======================= 
# ___
# Dementia
Followed by her outpatient neurologist Dr. ___. 
Patient continued on home Sinamet.

#B/l UE catheter associated DVT
Diagnosed in ___, with repeat US in ___ showing no 
evidence of DVT. Now that she has been treated for more than six 
months, enoxaparin is for DVT ppx. She was continued on 
enoxaparin 30 mg daily.

#Hypothyroidism: 
Patient continued on levothyroxine.

#Esophageal dysmotility s/p PEG 
Patient continued on tube feeds.

#CODE STATUS: full code 
#CONTACT: ___, ___ ___. ___, 
___ ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
2. Atorvastatin 20 mg PO QPM 
3. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
4. Carbidopa-Levodopa (___) 2 TAB PO QID ___, 1000, 1300, 
1600 
5. Carbidopa-Levodopa (___) 1.5 TAB PO DAILY at ___ 
6. Carbidopa-Levodopa (___) 1 TAB PO DAILY at 0000 
7. Clotrimazole Cream 1 Appl TP BID 
8. Ipratropium Bromide Neb 1 NEB IH Q6H 
9. Lansoprazole Oral Disintegrating Tab 30 mg PO BID 
10. Levalbuterol Neb 0.63 mg NEB Q6H 
11. Levothyroxine Sodium 25 mcg PO DAILY 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
14. PredniSONE 10 mg PO DAILY 
15. Nystatin Cream 1 Appl TP BID 
16. Enoxaparin (Prophylaxis) 30 mg SC DAILY 
17. melatonin 3 mg oral QHS 
18. formoterol fumarate 20 mcg/2 mL inhalation BID 
19. Vancomycin Oral Liquid ___ mg PO Q6H 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 1 Day 
___ 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*3 Tablet Refills:*0 
2.  Vancomycin Oral Liquid ___ mg PO QID Duration: 3 Days 
RX *vancomycin 50 mg/mL 1 capsule(s) by mouth four times a day 
Refills:*0 
3.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
4.  Atorvastatin 20 mg PO QPM  
5.  Carbidopa-Levodopa (___) 2 TAB PO QID ___, 1000, 1300, 
1600  
6.  Carbidopa-Levodopa (___) 1.5 TAB PO DAILY at ___  
7.  Carbidopa-Levodopa (___) 1 TAB PO DAILY at 0000  
8.  Clotrimazole Cream 1 Appl TP BID  
9.  Enoxaparin (Prophylaxis) 30 mg SC DAILY  
10.  formoterol fumarate 20 mcg/2 mL inhalation BID  
11.  Ipratropium Bromide Neb 1 NEB IH Q6H  
12.  Lansoprazole Oral Disintegrating Tab 30 mg PO BID  
13.  Levalbuterol Neb 0.63 mg NEB Q6H  
14.  Levothyroxine Sodium 25 mcg PO DAILY  
15.  melatonin 3 mg oral QHS  
16.  Multivitamins W/minerals 1 TAB PO DAILY  
17.  Nystatin Cream 1 Appl TP BID  
18.  PredniSONE 10 mg PO DAILY  
19. HELD- Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
This medication was held. Do not restart Bisacodyl until 
diarrhea resolves
20. HELD- Polyethylene Glycol 17 g PO DAILY:PRN Constipation - 
First Line  This medication was held. Do not restart 
Polyethylene Glycol until diarrhea resolves

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
C difficile infection
Urinary Tract Infection
Hypovolemia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were having diarrhea and your blood pressure was low. 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You were given antibiotics for an infection causing your 
diarrhea, called C difficile. 
- You were given antibiotics for a urinary tract infection
- You were given fluids intravenously to increase your blood 
pressure and you improved.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please continue to take all of your medications as directed
- Please follow up with all the appointments scheduled with your 
doctor

___ you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Team  
 
Followup Instructions:
___